US04771058
3-(5-Bromo-3-methylpyrid-2-ylamino)propylamine (1.0 g) was reacted with 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (0.65 g) in methanol overnight. p-Fluorobenzylamine (0.51 g) was added and the reaction mixture was stirred for 2 hours. The product was filtered off and recrystallised from ethanol to yield 4-(p-fluorobenzylamino)-3-[3-(5-bromo-3-methylpyrid-2-ylamino)propylamino]-1,2,5-thiadiazole-1-oxide (0.77 g, 40%) m.p. 125°-126° C.

reactant | 3-(5-Bromo-3-methylpyrid-2-ylamino)propylamine | 1.0 g | BrC=1C=C(C(=NC1)NCCCN)C | C9H14BrN3
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 0.65 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | p-Fluorobenzylamine | 0.51 g | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | methanol | CO | CH4O
product | 4-(p-fluorobenzylamino)-3-[3-(5-bromo-3-methylpyrid-2-ylamino)propylamino]-1,2,5-thiadiazole-1-oxide | 0.77 g, 40% | FC1=CC=C(CNC=2C(=NS(N2)=O)NCCCNC2=NC=C(C=C2C)Br)C=C1 | C18H20BrFN6OS
